US06235731B1
To the black liquid 5-fluoroimidazo[1,2-a]pyridine (650 mg) was added conc. hydrochloric acid (5 mL). The mixture was concentrated, which was crystallized from a mixture of ethanol, THF and ethyl acetate (10 mL:50 mL:200 mL) to afford 5-fluoroimidazo[1,2-a]pyridine monohydrochloride as a powdery product (690 mg, yield 83%).

reactant | 5-fluoroimidazo[1,2-a]pyridine | 650 mg | FC1=CC=CC=2N1C=CN2 | C7H5FN2
reactant | hydrochloric acid | 5 mL | Cl | ClH
product | 5-fluoroimidazo[1,2-a]pyridine monohydrochloride | Cl.FC1=CC=CC=2N1C=CN2 | InChI=1S/C7H5FN2.ClH/c8-6-2-1-3-7-9-4-5-10(6)7;/h1-5H;1H
